US07727988B2
3-(2,4-Dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-pyridine-2-carbonitrile hydrochloride (Prep103)
3-(2,4-Dimethoxy-pyrimidin-5-yl)-pyridine-2-carbonitrile (Prep102, 1 g, 4.13 mmol) was dissolved in a solution of 4N HCl in dioxane (20 ml). The mixture was refluxed for 45 minutes. The solvent was removed under vacuum to give 1 g of the title compound (97% yield).

reactant | 3-(2,4-Dimethoxy-pyrimidin-5-yl)-pyridine-2-carbonitrile | 4.13 mmol, 1 g | COC1=NC=C(C(=N1)OC)C=1C(=NC=CC1)C#N | C12H10N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(2,4-Dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-pyridine-2-carbonitrile hydrochloride | 1 g, 97% yield | Cl.O=C1NC=C(C(N1)=O)C=1C(=NC=CC1)C#N | InChI=1S/C10H6N4O2.ClH/c11-4-8-6(2-1-3-12-8)7-5-13-10(16)14-9(7)15;/h1-3,5H,(H2,13,14,15,16);1H
